US08202865B2
Step 3: tert-butyl 3-[{3-[amino(hydroxyimino)methyl]benzyl}(methyl)amino]propanoate
To a solution of tert-butyl 3-[(3-cyanobenzyl)(methyl)amino]propanoate (4.5 g, 0.0164 mol) in ethanol (60 mL) under N2, was added hydroxylamine (2.5 mL, 0.082 mol) in one portion. After being stirred at RT for 12 h, the reaction mixture was concentrated under reduced pressure to afford the title compound as a white gummy solid (4.5 g, 84%). 1H NMR (DMSO-d6, 400 MHz) δ 9.56 (s, 1H), 7.51-7.53 (m, 2H), 7.27-7.31 (m, 2H), 5.74 (s, 2H), 3.44 (s, 2H), 2.55-2.59 (m, 2H), 2.34-2.38 (m, 2H), 2.09 (s, 3H), 1.37 (s, 9H). LC/MS (Method A): 308.2 (M+H)+. HPLC (Method B) Rt 5.18 min (Purity: 96.5%).

reactant | tert-butyl 3-[(3-cyanobenzyl)(methyl)amino]propanoate | 0.0164 mol, 4.5 g | C(#N)C=1C=C(CN(CCC(=O)OC(C)(C)C)C)C=CC1 | C16H22N2O2
reactant | hydroxylamine | 0.082 mol, 2.5 mL | NO | H3NO
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | tert-butyl 3-[{3-[amino(hydroxyimino)methyl]benzyl}(methyl)amino]propanoate | 4.5 g, 84% | NC(C=1C=C(CN(CCC(=O)OC(C)(C)C)C)C=CC1)=NO | C16H25N3O3
